US07470679B2
(S)-dimethyl 2-((7-bromo-4-(chloromethyl)-1H-indazol-5-yl)methyl)succinate
(S)-dimethyl 2-((7-bromo-4-(hydroxymethyl)-1H-indazol-5-yl)methyl)succinate (2.25 g, 5.8 mmol) was dissolved in 2M thionyl chloride in dichloromethane (42 mL, 84 mmol). Reaction stirred at room temperature for 2.0 hours. Mixture was concentrated. Residue was treated with toluene and then concentrated by roto-vap. Residue was dissolved in ethyl acetate. Mixture was washed twice with aqueous sodium bicarbonate. Organic was dried (magnesium sulfate), filtered and concentrated in vacuo. Title compound was obtained as amber solid in 99% yield. MS m/e (M+H)+=404.9, 403.0, 406.9.

reactant | (S)-dimethyl 2-((7-bromo-4-(hydroxymethyl)-1H-indazol-5-yl)methyl)succinate | 5.8 mmol, 2.25 g | BrC=1C=C(C(=C2C=NNC12)CO)C[C@H](C(=O)OC)CC(=O)OC | C15H17BrN2O5
reactant | dichloromethane | 84 mmol, 42 mL | ClCCl | CH2Cl2
solvent | thionyl chloride | 2M | S(=O)(Cl)Cl | Cl2OS
product | (S)-dimethyl 2-((7-bromo-4-(chloromethyl)-1H-indazol-5-yl)methyl)succinate | 99% yield | BrC=1C=C(C(=C2C=NNC12)CCl)C[C@H](C(=O)OC)CC(=O)OC | C15H16BrClN2O4
